US08198311B2
To a stirred solution of 2-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropanecarbonitrile (275 mg, 0.78 mmol) in anhydrous THF (10 mL) was added 1.0M lithium aluminum hydride in diethyl ether (2.0 mL, 2.0 mmol) portionwise at RT under nitrogen. After stirring at RT for 12 hr, the mixture was quenched with MeOH, poured into a 1N sodium brine, extracted with ethyl acetate (2×100 mL), dried (MgSO4), concentrated and purified by HPLC to give 142 mg (39% yield) of (2-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropyl)methanamine as the TFA salt. MS found: (M+H)+=358.

reactant | 2-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropanecarbonitrile | 0.78 mmol, 275 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(C(C1)C#N)C1=CC=CC=C1 | C23H16FN3
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | 2.0 mmol, 2.0 mL | C(C)OCC | C4H10O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylcyclopropyl)methanamine | 142 mg, 39% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(C(C1)CN)C1=CC=CC=C1 | C23H20FN3
